US09169187B2
To 4,4′-didocosoxy-benzophenone (28.3 g, 34.1 mmol) were added THF (300 mL) and methanol (15 mL) and the mixture was heated to 60° C. Sodium borohydride (6.10 g, 161 mmol) was added slowly, and the mixture was stirred at the same temperature for 4 hr. The reaction mixture was ice-cooled and 1N hydrochloric acid (80 mL) was added dropwise. THF was evaporated, water (450 mL) was added and 1N hydrochloric acid was added to pH 5-7. The slurry was filtered, and the obtained crystals were washed with water and methanol to give 4,4′-didocosoxybenzhydrol (28.5 g, 34.1 mmol, 99%).

reactant | 4,4′-didocosoxy-benzophenone | 34.1 mmol, 28.3 g | C(CCCCCCCCCCCCCCCCCCCCC)OC1=CC=C(C(=O)C2=CC=C(C=C2)OCCCCCCCCCCCCCCCCCCCCCC)C=C1 | C57H98O3
reactant | THF | 300 mL | C1CCOC1 | C4H8O
reactant | Sodium borohydride | 161 mmol, 6.10 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1N, 80 mL | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | 4,4′-didocosoxybenzhydrol | 34.1 mmol, 28.5 g, 99% | C(CCCCCCCCCCCCCCCCCCCCC)OC1=CC=C(C(C2=CC=C(C=C2)OCCCCCCCCCCCCCCCCCCCCCC)O)C=C1 | C57H100O3
